US07250446B2
1-Piperidino-2-[(4-methylthiophenyl)-(naphth-1-yl)-methyloxy]ethane (1: R=CHOCH2CH2NC5H10, R1=H, R2=H, R3=SMe):
To a suspension of sodium hydride (0.09 g, 3.84 mmol) in dry benzene (15 ml), (4-methylthiophenyl)-naphth-1-yl-carbinol (0.3 g, 1.07 mmol) was added. The contents were refluxed for 10 minutes and then N-[2-chloroethyl]-piperidine hydrochloride (0.4 g, 2.17 mmol) was added. The reaction mixture was refluxed for 24 hours and neutralized by ethyl alcohol and concentrated. The concentrate was extracted with ethyl acetate. The organic extract was washed with water and dried over anhydrous sodium sulfate and concentrated to give oil, which was purified by column chromatography on basic alumina by using benzene-hexane as eluent to yield the desired product.

reactant | sodium hydride | 3.84 mmol, 0.09 g | [H-].[Na+]
reactant | (4-methylthiophenyl)-naphth-1-yl-carbinol | 1.07 mmol, 0.3 g | CSC1=CC=C(C=C1)C(O)C1=CC=CC2=CC=CC=C12 | C18H16OS
reactant | N-[2-chloroethyl]-piperidine hydrochloride | 2.17 mmol, 0.4 g | Cl.ClCCN1CCCCC1
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 1-Piperidino-2-[(4-methylthiophenyl)-(naphth-1-yl)-methyloxy]ethane | N1(CCCCC1)CCOC(C1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)SC | C25H29NOS
